US06399619B1
Step A: 3-(1-(tert-Butoxycarbonyl)piperidin-4-yl)propionic acid
A mixture of trans-3-(4-pyridyl)acrylic acid (7.4 grams, 50 mmol) and 10% palladium on carbon (3.7 grams, 3.45 mmol) in 50 mL MeOH was placed in a Parr bottle and hydrogenated at 50 psi for 20 hours. The catalyst was filtered off and the solvent was removed. The resulting solid was dissolved in 150 mL 1/1 THF/water and sodium bicarbonate (11.2 grams, 134 mmol) was added. Di-tert-butyl dicarbonate (11.7 grams, 53 mmol) was added and the mixture was stirred for 16 h. The solution was poured into 300 mL EtOAc and 1 M HCl was added until the pH was about 2. The aqueous layer was drawn off and the organic phase was washed with sat'd NaCl, then dried over Na2SO4 and concentrated. The product (9.5 grams, 74%) was used without further purification.

reactant | trans-3-(4-pyridyl)acrylic acid | 50 mmol, 7.4 grams | N1=CC=C(C=C1)/C=C/C(=O)O | C8H7NO2
reactant | sodium bicarbonate | 134 mmol, 11.2 grams | C([O-])(O)=O.[Na+]
reactant | Di-tert-butyl dicarbonate | 53 mmol, 11.7 grams | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 1 M | Cl | ClH
catalyst | palladium on carbon | 3.45 mmol, 3.7 grams | [Pd] | Pd
solvent | MeOH | 50 mL | CO | CH4O
solvent | THF water | C1CCOC1.O
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | 3-(1-(tert-Butoxycarbonyl)piperidin-4-yl)propionic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC(=O)O | C13H23NO4
